US09340538B2
Step B: 3-(5H-tetrazol-5-yl)morpholine hydrochloride
Tert-butyl 3-(5H-tetrazol-5-yl)morpholine-4-carboxylate (2 g, 7.8 mmol) was reacted with a solution of HCl in EtOAc (6 mol/L, 30 mL) according to the procedure as described in Example 18, Step B to give the title compound as a grey solid (1.05 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | Tert-butyl 3-(5H-tetrazol-5-yl)morpholine-4-carboxylate | 7.8 mmol, 2 g | N1=NN=NC1C1N(CCOC1)C(=O)OC(C)(C)C | C10H17N5O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 6 mol/L, 30 mL | CCOC(=O)C | C4H8O2
product | 3-(5H-tetrazol-5-yl)morpholine hydrochloride | 1.05 g, 70% | Cl.N1=NN=NC1C1NCCOC1 | InChI=1S/C5H9N5O.ClH/c1-2-11-3-4(6-1)5-7-9-10-8-5;/h4-6H,1-3H2;1H
